US09029409B2
To a cold solution of 6-acetyl-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide (0.050 g, 0.158 mmol, Preparation #23) and nicotinaldehyde (0.0168 mg, 0.158 mmol) in DCM (2 mL) was added aluminium chloride (0.02311 g, 0.173 mmol). The reaction mixture was allowed to stir for 15 minutes and added TEA (0.033 mL, 0.236 mmol). The reaction mixture was slowly warmed to RT and stirred for 3 h. The reaction mixture was heated to about 50° C. for 0.5 h then cooled to RT and poured into cold water (20 mL) and the product was extracted with diethyl ether (2×20 mL). The organic layer was washed successively with water (1×20 mL), brine (1×20 mL), dried over sodium sulphate and evaporated to dryness. The residue obtained was purified by preparative TLC eluting with 50% EtOAC/hexane to afford N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(3-(pyridin-3-yl)acryloyl)pyrimidine-4-carboxamide 0.015 g, (23.42%), 1H NMR (400 MHz, DMSO): δ 9.59 (bs, 1H) 9.00 (s, 1H) 8.67 (s, 1H) 8.33-8.17 (m, 3H) 8.00-7.96 (m, 1H) 7.52-7.51 (m, 1H) 7.19-7.17 (m, 2H) 6.92-6.91 (m, 1H) 4.51-4.49 (m, 2H) 3.82 (s, 3H) 2.89 (s, 3H), MS m/z: 407 (M+H)+.

reactant | 6-acetyl-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 0.158 mmol, 0.050 g | C(C)(=O)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC | C16H16FN3O3
reactant | nicotinaldehyde | 0.158 mmol, 0.0168 mg | C(C1=CN=CC=C1)=O | C6H5NO
reactant | aluminium chloride | 0.173 mmol, 0.02311 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 20 mL | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(3-(pyridin-3-yl)acryloyl)pyrimidine-4-carboxamide | 0.015 g, 23.42% | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C(C=CC=2C=NC=CC2)=O)C)C=C1)OC | C22H19FN4O3
